US07666878B2
A mixture of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (100 mg, 0.49 mmol), 1-chloro-4-iodo-benzene (117 mg, 0.49 mmol), CuI (5 mg, 0.03 mmol), cyclohexane-1,2-diamine (6 μL, 0.05 mmol), potassium phosphate (218 mg, 1.0 mmol) and 1,4-dioxane (0.5 mL) is heated at 160° C. for 140 minutes. The reaction is cooled, diluted with EtOAc, filtered through silica and evaporated to dryness. The residue is purified by flash column chromatography (5:1 iso-hexane/EtOAc elution) to furnish [1-(4-chloro-phenyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester; MH+=315.

reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | 0.49 mmol, 100 mg | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | 1-chloro-4-iodo-benzene | 0.49 mmol, 117 mg | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | cyclohexane-1,2-diamine | 0.05 mmol, 6 μL | C1(C(CCCC1)N)N | C6H14N2
reactant | potassium phosphate | 1.0 mmol, 218 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.03 mmol, 5 mg | [Cu]I
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | [1-(4-chloro-phenyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)C2=CC=C(C=C2)Cl)C)=O | C17H15ClN2O2
